US06087380
3-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-imidazo[4,5-b]pyridin-6-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 1 from 3-methyl-2-[N-(4-cyanophenyl)-aminomethyl]-imidazo[4,5-b]pyridin-6-yl-carboxylic acid-N-phenyl-N-(2-methoxycarbonylethyl)-amide, ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 82% of theory, C27H29N7O3 (499.58) Rf value: 0.20 (silica gel; ethyl acetate/ethanol/ammonia=50:45:5) ##EQU107##

reactant | 3-methyl-2-[N-(4-cyanophenyl)-aminomethyl]-imidazo[4,5-b]pyridin-6-yl-carboxylic acid-N-phenyl-N-(2-methoxycarbonylethyl)-amide | C1(=CC=CC=C1)N(C(=O)C=1C=C2C(=NC1)N(C(=N2)CNC2=CC=C(C=C2)C#N)C)CCC(=O)OC | C26H24N6O3
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | ethyl acetate ethanol ammonia | C(C)(=O)OCC.C(C)O.N
solvent | ethanol | C(C)O | C2H6O
product | 3-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-imidazo[4,5-b]pyridin-6-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Yield: 82% | Cl.C1(=CC=CC=C1)N(C(=O)C=1C=C2C(=NC1)N(C(=N2)CNC2=CC=C(C=C2)C(N)=N)C)CCC(=O)OCC | InChI=1S/C27H29N7O3.ClH/c1-3-37-24(35)13-14-34(21-7-5-4-6-8-21)27(36)19-15-22-26(31-16-19)33(2)23(32-22)17-30-20-11-9-18(10-12-20)25(28)29;/h4-12,15-16,30H,3,13-14,17H2,1-2H3,(H3,28,29);1H
